US05889012
cis-4-(1-Methylcyclohexyl)cyclohexylamine
36 g (0.185 mol) of 4-(1-methylcyclohexyl)cyclohexanone were subjected to reductive amination in 210 ml of ammonia-saturated methanol in the presence of 3 g of rhodium (5% on charcoal) at 50° C. and 50 bar hydrogen pressure.

reactant | 4-(1-methylcyclohexyl)cyclohexanone | 0.185 mol, 36 g | CC1(CCCCC1)C1CCC(CC1)=O | C13H22O
reactant | hydrogen | [H][H] | H2
reactant | ammonia | 210 ml | N | H3N
catalyst | rhodium | 3 g | [Rh] | Rh
product | cis-4-(1-Methylcyclohexyl)cyclohexylamine | CC1(CCCCC1)[C@H]1CC[C@H](CC1)N | C13H25N
